US08133907B2
2-tert-Butoxycarbonylamino-3-(2-fluoro-5-methylphenyl)-propionic acid
To a solution of 2-tert-butoxycarbonylamino-3-(2-fluoro-5-methylphenyl)-propionic acid ethyl ester (7.7 g, 24 mmol) in 60 mL of THF and 60 mL of MeOH is added lithium hydroxide (1.5 g, 35.6 mmol) in H2O (15 mL). The reaction is stirred at room temperature for 1.5 hr after which time 1M HCl is added until the mixture reaches pH 4. The product is extracted into dichloromethane and the combine the organic layers are dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 2-tert-butoxycarbonylamino-3-(2-fluoro-5-methylphenyl)-propionic acid ethyl ester | 24 mmol, 7.7 g | C(C)OC(C(CC1=C(C=CC(=C1)C)F)NC(=O)OC(C)(C)C)=O | C17H24FNO4
reactant | lithium hydroxide | 35.6 mmol, 1.5 g | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 60 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | 2-tert-Butoxycarbonylamino-3-(2-fluoro-5-methylphenyl)-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=CC(=C1)C)F | C15H20FNO4
